US04406909
36.6 g (0.1 mol) of 1,4-bis-(4-chlorophenoxy)-3,3-dimethyl-butan-2-one were dissolved in 250 ml of chloroform, and 16.6 g (0.1 mol) of bromine were added dropwise at 20° C. in a manner such that continuous decolorization occurred. After the addition, the mixture was subsequently stirred at room temperature for 30 minutes and was then concentrated by distilling off the solvent in vacuo. 43.2 g (quantitative conversion) of 1,4-bis-(4-chlorophenoxy)-1-bromo-3,3-dimethyl-butan-2-one were obtained as an oil, which was further reacted directly.

reactant | 1,4-bis-(4-chlorophenoxy)-3,3-dimethyl-butan-2-one | 0.1 mol, 36.6 g | ClC1=CC=C(OCC(C(COC2=CC=C(C=C2)Cl)(C)C)=O)C=C1 | C18H18Cl2O3
reactant | bromine | 0.1 mol, 16.6 g | BrBr | Br2
solvent | chloroform | 250 ml | C(Cl)(Cl)Cl | CHCl3
product | 1,4-bis-(4-chlorophenoxy)-1-bromo-3,3-dimethyl-butan-2-one | 43.2 g | ClC1=CC=C(OC(C(C(COC2=CC=C(C=C2)Cl)(C)C)=O)Br)C=C1 | C18H17BrCl2O3
